US07851465B2
2-(4-(4-Methoxybenzyloxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.
1-Bromo-4-(4-methoxybenzyloxy)benzene (10.00 g, 34.1 mmol) was dissolved in dioxane (250 mL), and bis(pinacolato)diborane (11.26 g, 44.3 mmol), and potassium acetate (10.04 g, 102 mmol) were added. The mixture was subjected to vacuum until bubbling occurred, and then nitrogen gas was introduced. The degassing procedure was repeated twice, and then tetrakis(triphenylphosphine) palladium (0) (512 mg, 0.44 mmol) was added, and the reaction was heated to 90° C. for 3 hours. The crude reaction mixture was then cooled to room temperature, and then diluted with ethyl acetate, and the organic solution was washed with water, then brine, then dried over sodium sulfate, and concentrated. The crude residue was filtered through a silica plug eluting with 6:4 ethyl acetate:hexanes. The filtrate was then concentrated, and washed with isopropyl alcohol (30 mL), and the solid product was collected by filtration yielding the product as a dull yellow solid (9.85 g, 85%). 1HNMR (300 MHz, CDCl3) δ 1.34 (s, 12H), 3.81 (s, 3H), 5.02 (s, 2H), 6.91 (d, 2H), 6.96 (d, 2H), 7.36 (d, 2H), 7.74 (d, 2H). Part III:

reactant | 1-Bromo-4-(4-methoxybenzyloxy)benzene | 34.1 mmol, 10.00 g | BrC1=CC=C(C=C1)OCC1=CC=C(C=C1)OC | C14H13BrO2
reactant | bis(pinacolato)diborane | 44.3 mmol, 11.26 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 102 mmol, 10.04 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.44 mmol, 512 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(4-(4-Methoxybenzyloxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 9.85 g, 85% | COC1=CC=C(COC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C20H25BO4
